US04585780
3-Benzyloxy-2-methyl-4-pyrone, prepared as described under Example 10, is reacted with glycine under substantially similar conditions to those described under Example 11 for reaction with 2-hydroxyethylamine to give 3-benzyloxy-1-carboxymethyl-3-hydroxy-2-methylpyrid-4-one, which is deprotected using the procedure described under Example 11 to give 1-carboxymethyl-3-hydroxy-2-methylpyrid-4-one as white crystals, m.p >230° C.; νmax (nujol) 1625, 1645 cm-1 ; δ(d6DMSO) 1.9 (s, 3H), 4.3 (s. 2H), 5.9 (d, 1H), 7.35 (d, 1H).

reactant | 3-Benzyloxy-2-methyl-4-pyrone | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
product | 3-benzyloxy-1-carboxymethyl-3-hydroxy-2-methylpyrid-4-one | C(C1=CC=CC=C1)OC1(C(N(C=CC1=O)CC(=O)O)C)O | C15H17NO5
